US08067408B2
[(3-Bromo-4-methylphenyl)methyl]amine
To 3-bromo-4-methylbenzamide (2.14 g, 10 mmol) in THF (10 mL) was added borane dimethyl sulfide complex (2 mL, 20 mmol) at 0° C. The mixture was then heated to 50° C. for 16 h. Additional borane dimethyl sulfide complex (1 mL, 10 mmol) was added and heating continued at 60° C. for an additional 5 days. The reaction was cooled to room temperature and ethanol was cautiously added. When bubbling ceased, 1N HCl was added until pH was ˜2. The mixture was stirred at 50° C. for 4 h. The mixture was partitioned between EtOAc and water. The aqueous was washed 3× with EtOAc. The aqueous was then adjusted to pH 10 with 2N NaOH and extracted 3× with EtOAc. The combined organics phases were dried over anhydrous Na2SO4, filtered, and concentrated to afford the title compound. LC-MS m/z 199.8 (M+H)+, 1.01 min (ret time).

reactant | 3-bromo-4-methylbenzamide | 10 mmol, 2.14 g | BrC=1C=C(C(=O)N)C=CC1C | C8H8BrNO
reactant | ethanol | C(C)O | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [(3-Bromo-4-methylphenyl)methyl]amine | BrC=1C=C(C=CC1C)CN | C8H10BrN
